Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Left ICA Aneurysm
 
Major Surgical or Invasive Procedure:
___: L ICA pipeline embo
 
History of Present Illness:
___ right-handed female who presents with pulsatile 
tinnitus a couple of months ago.  She now presents with an 
incidental diagnosis of a left internal carotid artery 
ophthalmic segment aneurysm measuring about 4.5 mm in size.  She 
has had a pulsatile tinnitus for a couple of months and 
especially on the right side, which is improved, but not 
resolved.  Audiogram was normal except for mild sensorineural 
hearing loss. She presents today for elective pipeline 
embolization.

 
Past Medical History:
Significant for depression, controlled; osteopenia; ETOH abuse, 
in recovery from ___ basal cell removed from the scalp; open 
reduction and internal fixation of the left wrist; C-section x 
2.

 
Social History:
___
Family History:
Significant for mother who had dementia at age ___ and a father 
who passed away from bone cancer.  Sister at age ___ with heart 
disease and asthma and a brother with squamous cell carcinoma.

 
Physical Exam:
ON DISCHARGE: ___
============
General:
T: 98-98.8, HR: 63-83, BP: 105-131/52-68, RR: ___, O2: 90-96%
RA

Exam:

Opens eyes: [X]spontaneous [ ]to voice [ ]to noxious

Orientation: [X]Person [X]Place [X]Time

Follows commands: [ ]Simple [X]Complex [ ]None

Pupils:  Right: 3-2mm  Left: 3-2mm

EOM: [X]Full [ ]Restricted

Face Symmetric: [X]Yes [ ]NoTongue Midline: [X]Yes [ ]No

Pronator Drift [ ]Yes [X]No     Speech Fluent: [X]Yes [ ]No

Comprehension intact [X]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[X]Sensation intact to light touch

Angio Groin Site: 
[X]Soft, no hematoma, dressing with dried staining to inferior
portion of dressing. No active drainage noted. 
[X]Palpable pulses

 
Pertinent Results:
Please see OMR for pertinent lab and imaging data. 
 
Brief Hospital Course:
On ___, Ms. ___ presented for elective pipeline 
embolization of left ICA aneurysm.  Her operative course was 
uncomplicated; see operative note for full details.  
Postoperatively she was monitored in ___ where she remained 
neurologically stable. Patient was able to ambulate the halls 
without difficulty. Her foley catheter and Aline were 
discontinued and patient was able to tolerate PO intake and void 
without difficulty. Patient remained with mild headaches, 
relieved with PRN Tylenol. Patient was discharged to home with 
follow up instructions with Dr. ___ in 4 weeks and her 
outpatient psychiatrist for readjusting dose of her Wellbutrin. 
Patient in agreement with discharge plan. Patient discharged on 
___ to home. 
 
Medications on Admission:
Albuterol PRN, Wellbutrin SR 100mg daily, clopidogrel 75mg 
daily, Advair 115-21mg 2 inh daily, Flovent 110mcg daily, duoneb 
PRN, Ativan 0.5mg daily, sertraline 100mg daily, aspirin 325mg 
daily, Citracal, Vit D3, Vit B12
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain - Mild/Fever 
Do not exceed 4g per day  
2.  Aspirin 325 mg PO DAILY 
Take daily until told otherwise.  
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO/NG DAILY 
Take daily until told otherwise.  
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  BuPROPion (Sustained Release) 100 mg PO QAM 
Do not take this medication until dose adjustments have been 
made with your psychiatrist   
5.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB/Wheeze  
6.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID  
7.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L ICA aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___ embolization of left ICA aneurysm

Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower. Do not rub/scrub your groin site. 

Medications
•Resume your normal medications and begin new medications as 
directed.
•You may be instructed by your doctor to take one ___ a day 
and/or Plavix. If so, do not take any other products that have 
aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in ___ hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•Mild to moderate headaches that last several days to a few 
weeks.
•Fatigue is very normal
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___